US04831179
In this example 5.3 g of cyclopropylamine were mixed with 9.4 g of triethylamine and then added drop-wise to a solution containing 20 g of 3-trifluoromethylbenzylsulfonyl chloride in methylene chloride at 0° C. The resulting reaction mixture was stirred at room temperature (i.e., about 20°-25° C.) for 3 hours. The reaction mixture was then washed with saturated aqueous ammonium chloride and then with aqueous 1 wt. % hydrochloric acid until it was neutral. The organic layer was then separated, washed twice with 50 ml of aqueous saturated sodium chloride solution, dried over magnesium sulfate and then evaporated to dryness affording 20 g of N-cyclopropyl-3-trifluoromethylbenzylsulfonamide.

reactant | cyclopropylamine | 5.3 g | C1(CC1)N | C3H7N
reactant | triethylamine | 9.4 g | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethylbenzylsulfonyl chloride | 20 g | FC(C=1C=C(CS(=O)(=O)Cl)C=CC1)(F)F | C8H6ClF3O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-3-trifluoromethylbenzylsulfonamide | 20 g | C1(CC1)NS(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C11H12F3NO2S
